US03939164
2,3-Diiodobenzoic acid is treated with diborane in tetrahydrofuran to give 2,3-diiodobenzyl alcohol which is oxidized to 2,3-diiodobenzaldehyde with activated manganese dioxide in methylene chloride.

reactant | 2,3-Diiodobenzoic acid | IC1=C(C(=O)O)C=CC=C1I | C7H4I2O2
reactant | diborane | B#B | B2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-diiodobenzyl alcohol | IC1=C(CO)C=CC=C1I | C7H6I2O
